US04786640
Step (3) Preparation of 2-(5-Bromo-1-naphthalenyl)-1,6-dihydro-4-[(1-naphthalenyl)methyl]-6-oxo-5-pyrimidinecarbonitrile
To a stirred solution of sodium methoxide, freshly prepared from sodium (1.5 g, 0.065 mol) in methanol (75 mL), was added cyanoacetamide (4.2 g, 0.050 mol). After 2 minutes, methyl-N-(5-bromo-1-naphthoyl)-2-(1-naphthalenyl)acetimidate (21.6 g, 0.050 mol) was added. The resulting mixture was stirred at room temperature for 15 hours, then heated to reflux for 4 hours. After cooling to room temperature, the mixture was neutralized with H2SO4 (1.8 mL) and diluted with water. The product was collected by filtration, washed with water, and dried in vacuo to give a yellow solid (16.4 g, 71%), which was used without purification.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.065 mol, 1.5 g | [Na] | Na
reactant | cyanoacetamide | 0.050 mol, 4.2 g | C(#N)CC(=O)N | C3H4N2O
reactant | methyl-N-(5-bromo-1-naphthoyl)-2-(1-naphthalenyl)acetimidate | 0.050 mol, 21.6 g | COC(CC1=CC=CC2=CC=CC=C12)=NC(=O)C1=CC=CC2=C(C=CC=C12)Br | C24H18BrNO2
reactant | H2SO4 | 1.8 mL | OS(=O)(=O)O | H2O4S
solvent | methanol | 75 mL | CO | CH4O
solvent | water | O | H2O
product | 2-(5-Bromo-1-naphthalenyl)-1,6-dihydro-4-[(1-naphthalenyl)methyl]-6-oxo-5-pyrimidinecarbonitrile | 16.4 g, 71% | BrC1=C2C=CC=C(C2=CC=C1)C=1NC(C(=C(N1)CC1=CC=CC2=CC=CC=C12)C#N)=O | C26H16BrN3O
